US05616537
Preparation of Methyl 6-(4,6-Dimethoxypyrimidin-2-yl)oxy-3-methyl-benzisoxazol-7-carboxylate (Compound No. 487)
A mixture comprising 1.3 g of methyl 6-hydroxy-3-methyl-benzisoxazol-7-carboxylate, 1.4 g of 4,6-dimethoxy-2-methylsulfonylpyrimidine and 1 g of potassium carbonate in 20 ml of N,N-dimethylformamide, was heated and stirred at 70° C. for two hours. The mixture was returned to room temperature, poured into ice water and extracted with ethyl acetate. The organic layer was washed with water and then dried over anhydrous sodium sulfate. Then, it was concentrated under reduced pressure, and the obtained crystals were thoroughly washed with isopropyl ether to obtain 1.6 g (yield: 73%) of the desired compound.

reactant | methyl 6-hydroxy-3-methyl-benzisoxazol-7-carboxylate | 1.3 g | OC1=C(C2=C(C(=NO2)C)C=C1)C(=O)OC | C10H9NO4
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 1.4 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl 6-(4,6-Dimethoxypyrimidin-2-yl)oxy-3-methyl-benzisoxazol-7-carboxylate | 1.6 g, yield: 73% | COC1=NC(=NC(=C1)OC)OC1=C(C2=C(C(=NO2)C)C=C1)C(=O)OC | C16H15N3O6
